US08067445B2
Step 4: (2′-Aminomethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid
(2′-Aminomethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester (0.058 g, 0.17 mmol) in THF (0.59 mL) and MeOH (0.47 mL) was treated with 1N aqueous NaOH (0.17 mL, 0.17 mmol) and stirred overnight at room temperature. Analytical LCMS indicated that starting material was still present, so the reaction was stirred at 50° C. for 4.5 hours. Analytical LCMS showed that no change had occurred, so additional 1N aqueous NaOH (0.20 mL, 0.20 mmol) was added, and the reaction was stirred at 50° C. overnight. The mixture was cooled to room temperature and acidified with 1N aqueous HCl. The aqueous layer was extracted with CH2Cl2, and then diluted with brine and extracted twice with EtOAc. The combined organic layers were dried over MgSO4, filtered, and concentrated to give the title compound.

reactant | (2′-Aminomethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester | 0.17 mmol, 0.058 g | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN)=O | C18H18F3NO3
reactant | NaOH | 0.17 mmol, 1N, 0.17 mL | [OH-].[Na+]
reactant | NaOH | 0.20 mmol, 1N, 0.20 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 0.59 mL | C1CCOC1 | C4H8O
solvent | MeOH | 0.47 mL | CO | CH4O
product | (2′-Aminomethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid | NCC1=C(C=CC(=C1)C(F)(F)F)C1=CC(=CC=C1OC)CC(=O)O | C17H16F3NO3
